US05489693
1-(4-Amidinophenyl)-3-[4-[2-(cyclohexyloxycarbonyl)ethyl]-phenyl]-4-methoxy-3-pyrrolin-2-one-hydrochloride
Prepared by passing dry hydrogen chloride through a solution of 1-(4-amidinophenyl)-3-[4-(2-carboxy-ethyl)phenyl]-4-methoxy-3-pyrrolin-2-one and an excess of cyclohexanol in methylene chloride for one hour and subsequently heating to 40° C. for one hour.

reactant | hydrogen chloride | Cl | ClH
reactant | 1-(4-amidinophenyl)-3-[4-(2-carboxy-ethyl)phenyl]-4-methoxy-3-pyrrolin-2-one | C(N)(=N)C1=CC=C(C=C1)N1C(C(=C(C1)OC)C1=CC=C(C=C1)CCC(=O)O)=O | C21H21N3O4
reactant | cyclohexanol | C1(CCCCC1)O | C6H12O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-(4-Amidinophenyl)-3-[4-[2-(cyclohexyloxycarbonyl)ethyl]-phenyl]-4-methoxy-3-pyrrolin-2-one-hydrochloride | Cl.C(N)(=N)C1=CC=C(C=C1)N1C(C(=C(C1)OC)C1=CC=C(C=C1)CCC(=O)OC1CCCCC1)=O | InChI=1S/C27H31N3O4.ClH/c1-33-23-17-30(21-14-12-20(13-15-21)26(28)29)27(32)25(23)19-10-7-18(8-11-19)9-16-24(31)34-22-5-3-2-4-6-22;/h7-8,10-15,22H,2-6,9,16-17H2,1H3,(H3,28,29);1H
